US04469634
A solution of 3-methoxyphthalic acid (19.6 g, 0.1 mol) in 100 ml of tetrahydrofuran was added to 10 g (0.263 mol) of lithium aluminum hydride in 500 ml of anhydrous ether at a rate sufficient to maintain a constant reflux. The mixture was refluxed for 2 hours after the addition was completed. It was cooled and decomposed by the addition of 10 ml of water, 20 ml of 10% sodium hydroxide and 40 ml of water. The resulting solid was separated by filtration and washed with tetrahydrofuran. The combined filtrates were concentrated to give 12 g of 3-methoxy-o-xylene-α,α'-diol; m.p. 95°.

reactant | 3-methoxyphthalic acid | 0.1 mol, 19.6 g | COC1=C(C(C(=O)O)=CC=C1)C(=O)O | C9H8O5
reactant | lithium aluminum hydride | 0.263 mol, 10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 10 ml | O | H2O
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | water | 40 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ether | 500 ml | CCOCC | C4H10O
product | 3-methoxy-o-xylene-α,α'-diol | 12 g | COC1=C(C(=CC=C1)CO)CO | C9H12O3
